US06610283B1
N-decylpiperidine was synthesized by reacting 45.7 g piperidine with 118.7 g 1-bromodecane in 237 mL acetone in the presence of 74 g potassium carbonate. After refluxing this reaction mixture at 55° C. for 24 hr, it was filtered and acetone was removed from the filtrate to yield 61 g N-decylpiperidine. 5 g N-decylpiperidine and 42 g 1-bromo-3-chloropropane were dissolved in 50 mL methanol and the reaction mixture was heated at 65° C. for 18 hr. After cooling to room temperature, methanol was removed under reduced pressure. The residue was poured into 2 L tert butylmethyl ether with stirring and then the mixture was allowed to stand for 6 hr. The white precipitate thus formed was filtered and was dried at 40° C. under vacuum for 24 hr yielding 68 g (3-chloropropyl)decylpiperidinium bromide as a light yellow solid.

reactant | piperidine | 45.7 g | N1CCCCC1 | C5H11N
reactant | 1-bromodecane | 118.7 g | BrCCCCCCCCCC | C10H21Br
reactant | potassium carbonate | 74 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 237 mL | CC(=O)C | C3H6O
product | N-decylpiperidine | 61 g | C(CCCCCCCCC)N1CCCCC1 | C15H31N
